US04760163
using isopropyl 2-chloro-4-fluoro-5-isocyanatobenzoate and ethyl 3-amino-2-methylcrotonate there is obtained isopropyl 2-chloro-4-fluoro-5-{3-[2-(ethoxycarbonyl)-1-methylpropenyl]ureido}-benzoate, m.p. 145°-147° C.,

reactant | isopropyl 2-chloro-4-fluoro-5-isocyanatobenzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N=C=O | C11H9ClFNO3
reactant | ethyl 3-amino-2-methylcrotonate | N\C(=C(/C(=O)OCC)\C)\C | C7H13NO2
product | isopropyl 2-chloro-4-fluoro-5-{3-[2-(ethoxycarbonyl)-1-methylpropenyl]ureido}-benzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)NC(=O)NC(=C(C)C(=O)OCC)C | C18H22ClFN2O5
